US08304514B2
First, 27.2 mmol of 1-bromo-4-iodobenzene, 13.6 mmol of 4-Amino triphenylamine, 0.27 mmol of bis(dibenzylideneacetone)palladium ([Pd(dba)2]), 0.54 mmol of 1,1′-bis(diphenylphosphino)ferrocene (DPPF), 40.8 mmol of sodium tert-butoxide and 18 ml toluene were added into a 250 ml bottle. After heating to reflux under a nitrogen atmosphere for 6 hrs, the solvent was removed under reduced pressure, and the residue was extracted with dichloromethane/water. The collected organic layer was dried by MgSO4 overnight and then filtered to remove MgSO4. After removing the solvent of filtrate, the residue was purified by silica gel column chromatography (dichloromethane:n-hexane=1:3) and recrystallized from hexane to obtain N,N-bis(4-bromophenyl)-N′,N′-dipheny-1,4-phenylenediamine (DTPADBR) as white crystals (61% yield).

reactant | 1-bromo-4-iodobenzene | 27.2 mmol | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | 4-Amino triphenylamine | 13.6 mmol | C1=CC=C(C=C1)N(C2=CC=CC=C2)C3=CC=C(C=C3)N | C18H16N2
reactant | sodium tert-butoxide | 40.8 mmol | CC(C)([O-])C.[Na+]
catalyst | bis(dibenzylideneacetone)palladium | 0.27 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.54 mmol | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-bis(4-bromophenyl)-N′,N′-dipheny-1,4-phenylenediamine | 61% yield | BrC1=CC=C(C=C1)N(C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)Br | C30H22Br2N2
